data/mechanism_extracts/JACS/10.1021_jacs.7b13387.json
{"doi": "10.1021_jacs.7b13387", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical chlorotrifluoromethylation (and bromotrifluoromethylation) of alkenes via anodically coupled electrolysis combining two parallel oxidative events", "mechanism_family": ["radical_anodic", "mediator_anodic", "electrocatalysis_inner_sphere", "paired_electrolysis"], "electrochemical_role": "Anode performs two parallel oxidations: direct oxidation of CF3SO2- (Langlois reagent) to generate transient CF3 radical, and oxidation of Mn(II)-Cl to a persistent [Mn(III)]-Cl radical chlorinating species; cathode reduces protons to H2", "key_intermediates": [{"name": "CF3 radical (transient, free)", "smiles": "[C](F)(F)F", "role": "reactive"}, {"name": "[Mn(III)]-Cl persistent metal-bound chlorine radical", "smiles": null, "role": "reactive"}, {"name": "benzylic/alkyl C-centered radical (I) after CF3 addition to alkene", "smiles": null, "role": "transient"}, {"name": "[Mn(II)]-Cl resting Mn species", "smiles": null, "role": "resting_state"}, {"name": "CF3SO2- (Langlois reagent anion)", "smiles": "[O-]S(=O)C(F)(F)F", "role": "reactive"}], "electron_flow": "At the anode, CF3SO2- is oxidized (Ep/2 = 800 mV) losing SO2 to give CF3 radical, while in parallel Mn(II)-Cl is oxidized (E = 780 mV) to persistent [Mn(III)]-Cl; CF3 radical (transient) rapidly adds to the alkene to give a C-centered radical (I), which is then trapped by the persistent [Mn(III)]-Cl via atom transfer to deliver the chloro-trifluoromethylated product and regenerate Mn(II). Protons are reduced to H2 at the Pt cathode.", "rate_determining_step": "Likely the anodic oxidation events (cell potential rises to 1.3-1.6 V to oxidize both CF3SO2- and Mn(II)-Cl); product-forming radical addition (path A) is fast and not rate-limiting", "probe_reagents": [{"name": "vinyl cyclopropane (25)", "smiles": "C=CC1(C(=O)OCc2ccccc2)CC1C(=O)OCc1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened product 26 obtained (40%, E/Z 10:1), consistent with C-radical intermediate after CF3 addition and before chlorination"}, {"name": "bisallyl tosylamine (27)", "smiles": "C=CCN(CC=C)S(=O)(=O)c1ccc(C)cc1", "purpose": "radical_clock", "observation": "5-exo-trig cyclized pyrrolidine 28 (82%, dr 3.5:1), confirming radical intermediate, excluding cationic ECEC pathway"}, {"name": "MgCl2 vs LiCl swap", "smiles": null, "purpose": "other", "observation": "LiCl gave diminished 2a yield with substantial dichloride 2d (12%), indicating chemoselectivity depends on solubility/Mn coordination"}, {"name": "Mn omission control", "smiles": null, "purpose": "intermediate_trap", "observation": "No 2a formed without Mn(OAc)2, demonstrating essential role of Mn-Cl persistent radical"}, {"name": "cyclic voltammetry of [Mn(III)]-Cl/[Mn(II)]-Cl", "smiles": null, "purpose": "redox_probe", "observation": "Reversible redox waves indicate lifetime of [Mn(III)]-Cl >10^2 s (persistent radical character)"}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "stoichiometric_intermediate", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Mechanism leverages persistent-radical effect: transient CF3 radical (spin on C) adds to alkene faster than the persistent [Mn(III)]-Cl (path A > path C), and cross-coupling of C-radical with persistent Mn-Cl (path D) outcompetes radical-radical homocoupling (path B), giving selective hetero-difunctionalization. Alternative ECEC (carbocation) mechanism ruled out by radical clock results since required carbocations would be primary/destabilized. Side product 2d (vicinal dichloride) arises from competing Mn-mediated dichlorination pathway; dimerization of I suppressed by high local concentration of [Mn(III)]-Cl in the anodic diffusion layer."}
